* C:\Users\bismi\OneDrive\Documents\LTspice\SPICEV2\Amplifier.asc
C1 N002 N004 50n
V1 +9V 0 18 AC 50m
V2 0 -9V 18 AC 50m
C2 +9V 0 .1µ
C3 0 -9V .1µ
V3 Vin N003 SINE(0 10n 50) AC 0 0 Rser=13.25
R1 0 SigIn 10 tol=1
R2 Sig- 0 10 tol=1
XX1 REF refamp197
C4 Vin SigIn 1500µ V=10 Irms=715m Rser=0.093 Lser=29.9n mfg="Würth Elektronik" pn="860020274017 WCAP-ATG5 8x20" type="Al electrolytic"
C5 Sig- N003 1500µ V=10 Irms=715m Rser=0.093 Lser=29.9n mfg="Würth Elektronik" pn="860020274017 WCAP-ATG5 8x20" type="Al electrolytic"
XU2 SigIn Sig- +9V -9V VOut REF N002 N004 INA848
L1 N001 0 37.766n Rser=1.3256
L2 ADOUT 0 37.017n Rser=0.63631
R3 ADOUT 0 10Meg
C6 N001 VOut .1µ

* block symbol definitions
.subckt refamp197 Out
V1 5V 0 5 AC 50m
R1 5V N001 100k
R2 N001 0 100k
C1 N001 0 1µ
C2 Out 0 100p
C3 5V 0 .1µ
XU2 N001 Out 5V 0 Out OPAx197
.ends refamp197

.tran 0 1 10m 1u
* .noise V(VOut) V3 dec 10 .1 1000
.meas TRAN VppTrans PP V(Vadout) FROM 50m TO 100m
* .ac dec 10 .1 1000
K L1 L2 0.99003
.meas TRAN VppAmp PP V(Vout) FROM 50m TO 100m
.lib C:\Users\bismi\OneDrive\Documents\LTspice\SPICEV2\INA848.LIB
.lib C:\Users\bismi\OneDrive\Documents\LTspice\SPICEV2\OPAx197.LIB
.backanno
.end
