* C:\Users\hibin\Documents\SPICE\Amplifier.asc
C1 N001 N003 50n
V1 +9V 0 9
V2 0 -9V 9
C2 +9V 0 .1µ
C3 0 -9V .1µ
V3 Vin N002 SINE(0 10n 50) AC 0 0 Rser=13.25
R1 0 SigIn 10 tol=20
R2 Sig- 0 10 tol=20
XX1 REF refamp197
XU1 SigIn Sig- +9V -9V VOut REF N001 N003 INA848
C4 Vin SigIn 1500µ V=10 Irms=715m Rser=0.093 Lser=29.9n mfg="Würth Elektronik" pn="860020274017 WCAP-ATG5 8x20" type="Al electrolytic"
C5 Sig- N002 1500µ V=10 Irms=715m Rser=0.093 Lser=29.9n mfg="Würth Elektronik" pn="860020274017 WCAP-ATG5 8x20" type="Al electrolytic"

* block symbol definitions
.subckt refamp197 5V
V1 5V 0 5
R1 5V N001 100k
R2 N001 0 100k
C1 N001 0 1µ
XU1 N001 Out 5V 0 Out OPAx197
.ends refamp197

* .tran 0 1 50u 1u
.noise V(VOut) V3 dec 10 .1 1000
* .meas TRAN Vpp PP V(Vout) FROM 100u TO 250m
* .ac dec 10 .1 1000
.lib C:\Users\hibin\Documents\SPICE\INA848.LIB
.lib C:\Users\hibin\Documents\SPICE\OPAx197.LIB
.backanno
.end
