* C:\Users\hibin\Documents\SPICE\RefAmp197.asc
V1 5V 0 5
R1 5V N001 100k
R2 N001 0 100k
C1 N001 0 1µ
XU1 N001 Out 5V 0 Out OPAx197
.noise V(Out) V1 dec 100 .1 1000
.lib C:\Users\hibin\Documents\SPICE\OPAx197.LIB
.backanno
.end
